US06239324B1
Synthesis of 4-methylhexa-1,5-dien-1-yl acetate
(p-Cymene)ruthenium dichloride dimer (27.8 mg, 0.091 mmol Ru) and sodium triflate (80 mg, 0.464 mmol) were dissolved in 10 ml of methanol. To the mixed solution were added isoprene (3 ml) and vinyl acetate (5 ml) and the mixture was stirred under heat at 100° C. for 14 hours. The resulting product was poured into water and extracted using toluene and the extract was subjected to a GLC analysis. As a result, it was confirmed that a co-dimer was produced with the conversion rate being 10% and the ratio of an isomer being 17:3.

reactant | sodium triflate | 0.464 mmol, 80 mg | [O-]S(=O)(=O)C(F)(F)F.[Na+]
reactant | isoprene | 3 ml | C=CC(C)=C | C5H8
reactant | vinyl acetate | 5 ml | C(C)(=O)OC=C | C4H6O2
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4-methylhexa-1,5-dien-1-yl acetate | C(C)(=O)OC=CCC(C=C)C | C9H14O2
